US07384967B2
2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-1H-imidazole-4-carboxylic acid ethyl ester (190 mg, 38%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 2-mercapto-1H-imidazole-4-carboxylic acid ethyl ester (340 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 2-mercapto-1H-imidazole-4-carboxylic acid ethyl ester | 2 mmol, 340 mg | C(C)OC(=O)C=1N=C(NC1)S | C6H8N2O2S
product | 2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-1H-imidazole-4-carboxylic acid ethyl ester | 190 mg, 38% | C(C)OC(=O)C=1N=C(NC1)SC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C23H25N5O4S2
